US06169107A
A mixture of 3.12 g (13.7 mmol) of methyl 1-(2-cyanoethyl)-2-indolecarboxylate, 30 ml of 10% sodium carbonate solution, 30 ml of 30% hydrogen peroxide and 100 ml of acetone was stirred at room temperature for 4 hours. Next, the reaction mixture was cooled to 0° C. and 10% sodium sulfite solution was added dropwise to decompose an excess of the peroxide. The most of acetone in the reaction mixture was then distilled off and the concentrate was extracted three times with ethyl acetate. The combined extracts were washed with saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 2.30 g (68%) of methyl 1-(2-carbamoylethyl)-2-indolecarboxylate.

reactant | methyl 1-(2-cyanoethyl)-2-indolecarboxylate | 13.7 mmol, 3.12 g | C(#N)CCN1C(=CC2=CC=CC=C12)C(=O)OC | C13H12N2O2
reactant | sodium carbonate | 30 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 30 ml | OO | H2O2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl 1-(2-carbamoylethyl)-2-indolecarboxylate | 2.30 g, 68% | C(N)(=O)CCN1C(=CC2=CC=CC=C12)C(=O)OC | C13H14N2O3
